US06127360
Synthesis of 7-{3-[4-(2-quinolylmethyl)-1-piperazinyl]propoxy}-2,3,4,5-tetrahydro-1H-1-benzoazepin-2-one
A mixture consisting of 7-(3-chloropropoxy)-2,3,4,5-tetrahydro-1H-benzoazepin-2-one (0.304 g, 1.2 mmol) and 1-(2-quinolylmethyl)piperazine (1.091 g, 4.8 mmol) was stirred for 4 hours at a bath temperature of 150° C. under an argon gas stream. The reaction mixture was dissolved in chloroform. The thus-obtained solution was rendered basic with a dilute aqueous solution of sodium hydroxide, washed with water, and then dried over magnesium sulfate. After the resulting solution was purified by subjecting it to chromatography on a silica gel column (developer: chloroform/methanol=40/1), recrystallization was conducted from acetone. The title compound (0.270 g) was obtained as yellow prisms (yield: 50.6%).

reactant | 7-(3-chloropropoxy)-2,3,4,5-tetrahydro-1H-benzoazepin-2-one | 1.2 mmol, 0.304 g | ClCCCOC=1C=CC2=C(CCCC(N2)=O)C1 | C13H16ClNO2
reactant | 1-(2-quinolylmethyl)piperazine | 4.8 mmol, 1.091 g | N1=C(C=CC2=CC=CC=C12)CN1CCNCC1 | C14H17N3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 7-{3-[4-(2-quinolylmethyl)-1-piperazinyl]propoxy}-2,3,4,5-tetrahydro-1H-1-benzoazepin-2-one | 0.270 g | N1=C(C=CC2=CC=CC=C12)CN1CCN(CC1)CCCOC=1C=CC2=C(CCCC(N2)=O)C1 | C27H32N4O2
